US07667041B2
Synthesis of 1-[1-(2-fluorophenyl)-1-methylethyl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one
IPEA (0.5 mL), EDC (192 mg) and HOBT (135 mg) were added to a solution of 5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid trifluoroacetate (150 mg) and 1-(2-fluorophenyl)-1-methylethylamine (102 mg) in DMF (5 mL), and the reaction solution was stirred at room temperature for 3 hours. Water and ethyl acetate were added to the reaction solution and the organic layer was partitioned. The resulting organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (Carrier: Chromatorex™ NH, elution solvent:heptane-ethyl acetate system→ethyl acetate-methanol system) to obtain 5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid (1-(2-fluorophenyl)-1-methylethyl)amide. Sodium hydride (containing mineral oil at 40%, 40 mg) was added to a solution of the resulting 5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid (1-(2-fluorophenyl)-1-methylethyl)amide in DMF (5 mL), and the reaction solution was stirred at room temperature for 20 minutes. Water and ethyl acetate were added to the reaction solution and the organic layer was partitioned. The resulting organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (Carrier: Chromatorex™ NH, elution solvent:heptane-ethyl acetate system→ethyl acetate-methanol system) to obtain 70 mg of the title compound. The physical properties of the compound are as follows.

reactant | Sodium hydride | 40 mg | [H-].[Na+]
reactant | 5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid (1-(2-fluorophenyl)-1-methylethyl)amide | FC1=C(C=CC=C1)C(C)(C)NC(C(CCCCl)=CC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C26H29ClFN3O2
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-[1-(2-fluorophenyl)-1-methylethyl]-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one | 70 mg | FC1=C(C=CC=C1)C(C)(C)N1C(C(CCC1)=CC1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C26H28FN3O2
